US09226916B2
rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester
In analogy to the procedure described for the synthesis of example 44 (step c), the title compound rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester was prepared from rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester using 1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid instead of 1-methylcyclopropane-1-carboxylic acid and was obtained as an off-white foam. MS m/e: 578.2 [M]+.

reactant | rac-[(3R,4S)-4-(3,4-dichloro-phenyl)-1-(piperidine-4-carbonyl)-pyrrolidin-3-yl]-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCNCC1)=O | C24H26Cl2FN3O3
reactant | 1-(tetrahydro-pyran-4-yl)-piperidine-4-carboxylic acid | O1CCC(CC1)N1CCC(CC1)C(=O)O | C11H19NO3
product | rac-{(3R,4S)-4-(3,4-Dichloro-phenyl)-1-[1-(tetrahydro-pyran-4-yl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid 4-fluoro-phenyl ester | FC1=CC=C(C=C1)OC(N(C)[C@H]1CN(C[C@@H]1C1=CC(=C(C=C1)Cl)Cl)C(=O)C1CCN(CC1)C1CCOCC1)=O | C29H34Cl2FN3O4
